US05266668
The process according to the invention is carried out in three stages: dimethyl α-fluoromalonate is first reacted with formaldehyde to give dimethyl α-hydroxymethyl-α-fluoromalonate, the latter is then hydrolyzed and the hydrolysis product is decarboxylated and dehydrated, and finally, the resuiting α-fluoroacrylic acid is esterified with a substituted phenol.

reactant | dimethyl α-fluoromalonate | FC(C(=O)OC)C(=O)OC | C5H7FO4
reactant | formaldehyde | C=O | CH2O
product | dimethyl α-hydroxymethyl-α-fluoromalonate | OCC(C(=O)OC)(C(=O)OC)F | C6H9FO5
